US08685989B2
Production of 2-(6-chloropyridazine-3-yloxy)-N-(1-(cyclopropanecarbonyl)piperidine-4-yl)-N-methylacetamide (Compound 135)
The title compound was synthesized from ethyl 2-(6-chloropyridazine-3-yloxy)acetate and cyclopropyl (4-(methylamino)piperidine-1-yl)methanone in the same manner as in Example 105 (63% yield, in 2 steps).

reactant | ethyl 2-(6-chloropyridazine-3-yloxy)acetate | ClC1=CC=C(N=N1)OCC(=O)OCC | C8H9ClN2O3
reactant | cyclopropyl (4-(methylamino)piperidine-1-yl)methanone | C1(CC1)C(=O)N1CCC(CC1)NC | C10H18N2O
product | 2-(6-chloropyridazine-3-yloxy)-N-(1-(cyclopropanecarbonyl)piperidine-4-yl)-N-methylacetamide | 63% yield | ClC1=CC=C(N=N1)OCC(=O)N(C)C1CCN(CC1)C(=O)C1CC1 | C16H21ClN4O3
